M1 (VOUT1 net13 VIN2 VSS) nmos4
M0 (VOUT2 net14 VIN1 VSS) nmos4
R1 (VDD VOUT1) resistor
R0 (VDD VOUT2) resistor
L1 (VIN2 VSS) inductor
L0 (VIN1 VSS) inductor
C1 (net14 VIN2) capacitor
C0 (net13 VIN1) capacitor